US07671043B2
3D. 5-Chloro-2-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrimidine
The title compound was prepared from 5-chloropyrimidine-2-carbonitrile by procedures analogous to those described in Example 4A-4B for the preparation of 2-Chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine.

reactant | 5-chloropyrimidine-2-carbonitrile | ClC=1C=NC(=NC1)C#N | C5H2ClN3
reactant | 2-Chloro-5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine | ClC1=NC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C17H16ClN3O
product | 5-Chloro-2-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrimidine | ClC=1C=NC(=NC1)C1=NOC(=N1)C1=CC=C(C=C1)CC(C)C | C16H15ClN4O
